US07951802B2
4-(1,4-Dioxa-spiro[4.5]dec-8-yl)-morpholine (1)
A mixture of 1,4-dioxaspiro[4.5]decan-8-one (10.0 g, 64.0 mmol), morpholine (20 mL) and AcOH (1.0 mL) was stirred for 2.5 h. Sodium cyanoborohydride (8.05 g, 128.0 mmol) was then added in one portion followed by more morpholine (15 mL). An exothermic reaction occurred and the mixture was cooled for 2 min with an ice-bath. Then the mixture was stirred at room temperature for 16 h. Ethanol (120 mL) and water (28 mL) were added to the resulting thick slurry and the white solid filtered, washed with ethanol (2×) and the filtrate concentrated. Ethyl acetate was then added, the precipitate filtered off, washed with ethyl acetate and the filtrate concentrated. The residual oil was purified by Kugelrohr distillation to give 1 (9.03 g, 62%; b.p.140° C./0.05 mmHg) as a clear oil which solidifies on standing.

reactant | 1,4-dioxaspiro[4.5]decan-8-one | 64.0 mmol, 10.0 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | morpholine | 20 mL | N1CCOCC1 | C4H9NO
reactant | AcOH | 1.0 mL | CC(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 128.0 mmol, 8.05 g | C(#N)[BH3-].[Na+]
reactant | morpholine | 15 mL | N1CCOCC1 | C4H9NO
solvent | water | 28 mL | O | H2O
solvent | Ethanol | 120 mL | C(C)O | C2H6O
product | 4-(1,4-Dioxa-spiro[4.5]dec-8-yl)-morpholine | O1CCOC12CCC(CC2)N2CCOCC2 | C12H21NO3
